US09238631B2
a) 4-benzyl 1,4-di-tert-butyl (1S,4S)-1-[(tert-butoxycarbonyl)amino]-5-(4-nitrophenyl)pentane-1,4,4-tricarboxylate
Di-tert-butyl (5S)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate (1 g, 1.970 mmol) was dissolved in DMF (20 ml) and sodium hydride (53 mg, 1.773 mmol) was added. After stirring for 60 min, a solution of 4-nitrobenzyl bromide (426 mg, 1.970 mmol) in 10 ml DMF was added and the mixture was stirred at 60° C. for 90 min. The mixture was then concentrated in vacuo, the residue was taken up in water (50 ml) and ethyl acetate (100 ml), and the organic phase was washed with brine (3×50 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed over silica gel (hexane, ethyl acetate) to yield 1.04 g (82%) of a clear oil.

reactant | Di-tert-butyl (5S)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 1.970 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)OC(C)(C)C)CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C27H41NO8
reactant | sodium hydride | 1.773 mmol, 53 mg | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 1.970 mmol, 426 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-benzyl 1,4-di-tert-butyl (1S,4S)-1-[(tert-butoxycarbonyl)amino]-5-(4-nitrophenyl)pentane-1,4,4-tricarboxylate | 1.04 g, 82% | C(C)(C)(C)OC(=O)N[C@@H](CC[C@](CC1=CC=C(C=C1)[N+](=O)[O-])(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H46N2O10
